US08877801B2
To a 30 mL vial containing (E)-methyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylate (110 mg, 0.25 mmol) was added THF (2.00 mL), MeOH (1.00 mL), H2O (1.00 mL) and LiOH (29.5 mg, 1.23 mmol). The resulting mixture was stirred at room temperature for 60 min after which the reaction was concentrated in vacuo, diluted with water, and acidified to pH 2 with 6 M HCl causing a precipitate to form. The mixture was diluted with 20 mL DCM and 2 mL MeOH and the organic layer was collected (phase separator) and concentrated in vacuo to afford (E)-3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid (98 mg, 0.23 mmol, 92% yield) as a yellow solid. 1H NMR (400 MHz, CD3OD) δ ppm=7.51-7.69 (m, 5H), 7.43 (d, J=2.02 Hz, 1H), 7.25 (d, J=9.09 Hz, 1H), 6.88-7.02 (m, 5H), 6.37 (d, J=15.66 Hz, 1H), 3.89 (s, 3H), 3.80 (s, 3H). LC/MS (m/z, MH+): 433.0.

reactant | (E)-methyl 3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylate | 0.25 mmol, 110 mg | COC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C/C(=O)OC)C2=CC=C(C=C2)OC)C1 | C26H22O5S
reactant | THF | 2.00 mL | C1CCOC1 | C4H8O
reactant | H2O | 1.00 mL | O | H2O
reactant | LiOH | 1.23 mmol, 29.5 mg | [Li+].[OH-]
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 2 mL | CO | CH4O
solvent | MeOH | 1.00 mL | CO | CH4O
product | (E)-3-(4-((6-methoxy-2-(4-methoxyphenyl)benzo[b]thiophen-3-yl)oxy)phenyl)acrylic acid | 0.23 mmol, 98 mg, 92% yield | COC=1C=CC2=C(SC(=C2OC2=CC=C(C=C2)/C=C/C(=O)O)C2=CC=C(C=C2)OC)C1 | C25H20O5S
